US05962458
To a solution of 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(4-pyridylmethoxy)quinazoline (93 mg, 0.2 mmol) in a mixture of methanol (6 ml) and methylene chloride (3 ml) was added at ambient temperature a 2M aqueous sodium hydroxide solution (0.3 ml, 0.6 mmol). The mixture was stirred for 10 minutes at ambient temperature, the solvents were partially evaporated, water was added to the residue and the solution was acidified with 0.1M hydrochloric acid to pH6. The precipitate was filtered off, washed with water and dried under vacuum to give 4-(3-hydroxy-4-methylanilino)-6-methoxy-7-(4-pyridylmethoxy)quinazoline hydrochloride (67 mg, 87%).

reactant | 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(4-pyridylmethoxy)quinazoline | 0.2 mmol, 93 mg | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC=NC=C2)C=CC1C | C24H22N4O4
reactant | sodium hydroxide | 0.6 mmol, 2M, 0.3 ml | [OH-].[Na+]
reactant | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 6 ml | CO | CH4O
product | 4-(3-hydroxy-4-methylanilino)-6-methoxy-7-(4-pyridylmethoxy)quinazoline hydrochloride | 67 mg, 87% | Cl.OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC=NC=C2)C=CC1C | InChI=1S/C22H20N4O3.ClH/c1-14-3-4-16(9-19(14)27)26-22-17-10-20(28-2)21(11-18(17)24-13-25-22)29-12-15-5-7-23-8-6-15;/h3-11,13,27H,12H2,1-2H3,(H,24,25,26);1H
